US06211234B1
A stirred solution of methyl (RS)-5-[3-(hydroxy)phenyl]-4-(2-methylphenyl)-5-oxo-pentanoate (1.68 g) in dimethylformamide (20 mL) is treated with 60% sodium hydride in oil (237 mg). After 15 minutes the mixture is treated with 4-chlorobenzyl chloride (953 mg) and heated at 60° C. for 1 hour. The reaction mixture is evaporated, the residue is dissolved in diethyl ether, washed with water, dried, and evaporated, to give methyl (RS)-5-[3-(4-chlorobenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate (2.05 g), in the form of a colouriess oil. [NMR(CDCl3):- 2.0-2.5(4H,m),2.5(3H,s), 3.65(3H,s), 4.8(1H,m),5.0(2H,q),7.0-7.5(12H)].

reactant | methyl (RS)-5-[3-(hydroxy)phenyl]-4-(2-methylphenyl)-5-oxo-pentanoate | 1.68 g | OC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=C(C=CC=C1)C)=O | C19H20O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 953 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl (RS)-5-[3-(4-chlorobenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate | 2.05 g | ClC1=CC=C(COC=2C=C(C=CC2)C(C(CCC(=O)OC)C2=C(C=CC=C2)C)=O)C=C1 | C26H25ClO4
